US09107916B2
A. 2-[5-[(2,4-difluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2,4-difluorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.19 (2H, s), 5.74 (1H, d, J=2.0 Hz), 6.78-6.86 (2H, m), 7.33 (1H, dd, J=1.2 Hz, J=4.8 Hz), 7.39-7.45 (1H, m), 7.51 (1H, d, J=1.6 Hz), 7.94 (1H, s), 8.62 (1H, d, J=4.8 Hz). [M+H] Calc'd for C16H10F2N4O, 313. Found, 313.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2,4-difluorophenyl)methanol | FC1=C(C=CC(=C1)F)CO | C7H6F2O
product | 2-[5-[(2,4-difluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC1=C(C=CC(=C1)F)COC1=CC=NN1C1=NC=CC(=C1)C#N | C16H10F2N4O
